US05420128
Thus obtained 1-chloromethyl-3-methyl-4-phenylthiobenzene was dissolved in 56 ml of N,N-dimethylformamide, and 18.16 g of finely ground sodium cyanide was added, and the mixture was stirred overnight at room temperature. After adding 300 ml of saturated brine and 300 ml of ice water to the reaction mixture, it was extracted with ethyl acetate (300 ml×3). The extract was washed with saturated brine (200 ml×3), and dried with anhydrous sodium sulfate, concentrated in vacuo, and 1-cyanomethyl-3-methyl-4-phenylthiobenzene was obtained (45.95 g).

reactant | 1-chloromethyl-3-methyl-4-phenylthiobenzene | ClCC1=CC(=C(C=C1)SC1=CC=CC=C1)C | C14H13ClS
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 56 ml | CN(C=O)C | C3H7NO
solvent | brine | 300 ml | [Cl-].[Na+].O
product | 1-cyanomethyl-3-methyl-4-phenylthiobenzene | C(#N)CC1=CC(=C(C=C1)SC1=CC=CC=C1)C | C15H13NS
